US08207172B2
Step 3. Preparation of 3-[2-(4-methyl-piperazin-1-yl)-ethyl]-6-[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene
This compound was prepared in a similar fashion as described in Example 48 step 6 starting from 3-(2-bromo-ethyl)-6-[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene (2.6 g, 5.2 mmol) and N-methyl piperazine (1.56 g, 15.59 mmol). The crude desired product was obtained as a light yellow solid (2.7 g) in 100% yield.

reactant | 3-(2-bromo-ethyl)-6-[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene | 5.2 mmol, 2.6 g | BrCCN1N=CC2=C1CCC=1C3=C(N=CN=C3SC21)OCCC2=CC=C(C=C2)[N+](=O)[O-] | C21H18BrN5O3S
reactant | N-methyl piperazine | 15.59 mmol, 1.56 g | CN1CCNCC1 | C5H12N2
product | 3-[2-(4-methyl-piperazin-1-yl)-ethyl]-6-[2-(4-nitro-phenyl)-ethoxy]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene | 100% yield | CN1CCN(CC1)CCN1N=CC2=C1CCC=1C3=C(N=CN=C3SC21)OCCC2=CC=C(C=C2)[N+](=O)[O-] | C26H29N7O3S
